US07226991B1
To a solution of [4-methyl-2-(phenylmethoxy)phenyl]acetic acid tert-butyl ester (10.67 g, 34.2 mmol) in 125 ml of ethanol was added palladium block (200 mg), the mixture was hydrogenated (using a hydrogen balloon) at 30° C. for 10 hr. After the starting material disappeared completely (detected by TLC), the solid was filtered off, and the solvent was evaporated to give a crude product of (2-hydroxy-4-methylphenyl)acetic acid tert-butyl ester, 7.32 g, (96%) as white solid. 1H NMR (CDCl3) δ: 7.931 (1H, s, br), 6.955 (1H, d, J=7.56 Hz), 6.799 (1H, s), 6.688 (1H, d, J=7.81 Hz), 3.551 (2H, S), 2.299 (3H, s), 1.472 (9H, s) ppm.

reactant | [4-methyl-2-(phenylmethoxy)phenyl]acetic acid tert-butyl ester | 34.2 mmol, 10.67 g | C(C)(C)(C)OC(CC1=C(C=C(C=C1)C)OCC1=CC=CC=C1)=O | C20H24O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 125 ml | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | (2-hydroxy-4-methylphenyl)acetic acid tert-butyl ester | C(C)(C)(C)OC(CC1=C(C=C(C=C1)C)O)=O | C13H18O3
